US06191150B1
(2S)-2-tert-Butoxycarbonylamino-5-(nitroimino-amino)methylaminopentanoic acid 1,3-thiazol-2-ylamide (2.28 g, 5.68 mmol) is dissolved in 5 mL THF and 5 mL 4 N HCl in dioxane. After 3 h, dichloromethane is added and the mixture is filtered. The semisolid is collected and is treated with methanol—toluene and concentrated in vacuo; this process is repeated several times to afford 1.63 g of (2S)-2-amino-5-(nitroimino-amino)methylaminopentanoic acid 1,3-thiazol-2-ylamide hydrochloride as a solid.

reactant | (2S)-2-tert-Butoxycarbonylamino-5-(nitroimino-amino)methylaminopentanoic acid 1,3-thiazol-2-ylamide | 5.68 mmol, 2.28 g | S1C(=NC=C1)NC([C@H](CCCNCN=N[N+](=O)[O-])NC(=O)OC(C)(C)C)=O | C14H23N7O5S
reactant | HCl | 4 N, 5 mL | Cl | ClH
reactant | dichloromethane | ClCCl | CH2Cl2
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | dioxane | O1CCOCC1 | C4H8O2
product | (2S)-2-amino-5-(nitroimino-amino)methylaminopentanoic acid 1,3-thiazol-2-ylamide hydrochloride | 1.63 g | Cl.S1C(=NC=C1)NC([C@H](CCCNCN=N[N+](=O)[O-])N)=O | InChI=1S/C9H15N7O3S.ClH/c10-7(8(17)14-9-12-4-5-20-9)2-1-3-11-6-13-15-16(18)19;/h4-5,7,11H,1-3,6,10H2,(H,12,14,17);1H/t7-;/m0./s1
